US08937150B2
1-(2,6-difluoro-4-nitrophenyl)-4-phenylpiperidine
In a 100 mL round-bottom flask was mixed 3,4,5-trifluoronitrobenzene (1.751 mL, 15 mmol) and potassium phosphate, dibasic (5.23 g, 30.0 mmol) in DMSO (15.00 mL) to give a yellow suspension. 4-Phenylpiperidine (2.419 g, 15.00 mmol) was added portion-wise as a solid over 10 minutes to produce a deeper yellow suspension and a mild exotherm. The mixture was stirred for 1 hour and partitioned between EtOAc and water. The EtOAc layer was washed 2× by 50 mL each with water and brine, dried (Na2SO4), filtered and concentrated to give the title compound as a yellow solid (4.53 g, 95% yield).

reactant | 3,4,5-trifluoronitrobenzene | 15 mmol, 1.751 mL | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-Phenylpiperidine | 15.00 mmol, 2.419 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
solvent | DMSO | 15.00 mL | CS(=O)C | C2H6OS
product | 1-(2,6-difluoro-4-nitrophenyl)-4-phenylpiperidine | 4.53 g, 95% yield | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCC(CC1)C1=CC=CC=C1 | C17H16F2N2O2
